US05830920
A suspension of 1.78 g of dimethyl L-tartrate and 4.85 g of tris-hydroxymethyl-methylamine in 50 ml of methanol was heated under reflux for 6 days and then concentrated. The residue was purified by chromatography over silica gel with ethyl acetate/methanol/water as the eluent and gave N,N'-bis-(2-hydroxy-1,1-bis-hydroxymethyl-ethyl)-L-tartaramide, [a]+101.00 (c 0.4; dimethyl sulfoxide), MS: m/z 357.3 ([M+H]+).

reactant | dimethyl L-tartrate | 1.78 g | C(=O)(OC)[C@H](O)[C@@H](O)C(=O)OC | C6H10O6
reactant | tris-hydroxymethyl-methylamine | 4.85 g | OCC(N)(CO)CO | C4H11NO3
solvent | methanol | 50 ml | CO | CH4O
product | N,N'-bis-(2-hydroxy-1,1-bis-hydroxymethyl-ethyl)-L-tartaramide | OCC(CO)(CO)NC([C@H](O)[C@@H](O)C(=O)NC(CO)(CO)CO)=O | C12H24N2O10
